US06797720B2
(2S)-2-(t-butoxycarbonylamino)-4-methylpentanol
To a solution of (2S)-2-amino-4-methylpentanol ((L)-leucinol) (20 g) in tetrahydrofuran (THF; 1000 ml) was added di-t-butyl-dicarbonate (43 ml) dropwise at 0° C. and the mixture was stirred for 1.5 hours at room temperature. The reaction mixture was concentrated to give the crude product of the title compound having the following physical data.

reactant | (2S)-2-amino-4-methylpentanol | 20 g | N[C@H](CO)CC(C)C | C6H15NO
reactant | di-t-butyl-dicarbonate | 43 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | (2S)-2-(t-butoxycarbonylamino)-4-methylpentanol | C(C)(C)(C)OC(=O)N[C@H](CO)CC(C)C | C11H23NO3
